US08008322B2
1-(2-Ethoxy-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea is coupled, by Suzuki reaction, with 4-iodo-1H-pyrazolo[3,4-b]pyrid-3-ylamine according to the preparation of Example 6. A yellow powder of 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyrid-4-yl)phenyl]-3-(2-ethoxy-5-trifluoromethylphenyl)urea is obtained, the characteristics of which are as follows:

reactant | 1-(2-Ethoxy-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | C(C)OC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H26BF3N2O4
reactant | 4-iodo-1H-pyrazolo[3,4-b]pyrid-3-ylamine | IC1=C2C(=NC=C1)NN=C2N | C6H5IN4
product | 1-[4-(3-amino-1H-pyrazolo[3,4-b]pyrid-4-yl)phenyl]-3-(2-ethoxy-5-trifluoromethylphenyl)urea | NC1=NNC2=NC=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)OCC | C22H19F3N6O2
